US04159981
4. Z-Gly-Ala-Pro-OtBu
1.65 g of Z-Gly-ONP and 1.09 g of H-Ala-Pro-OtBu in 20 ml of ethyl acetate are allowed to stand for one hour at 0° C. and 20 hours at room temperature. The mix is then diluted with ethyl acetate, washed with 50% saturated potassium carbonate solution and with water, dried over sodium sulphate and evaporated. 2.06 g of an oil which is homogeneous according to thin layer chromatography result. Rf = 0.8 in the system chloroform-methanol (1:1) on silica gel.

reactant | Z-Gly-ONP | 1.65 g | C1=CC=C(C=C1)COC(=O)NCC(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C16H14N2O6
reactant | H-Ala-Pro-OtBu | 1.09 g | N[C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C12H22N2O3
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | Z-Gly-Ala-Pro-OtBu | N(CC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C22H31N3O6
